US07442826B2
Thionyl chloride (0.6 ml, 7.7 mmol) was slowly added, under stirring and under argon, to a solution of 4-(Nitrooxy)butanoic acid (1.00 g, 6.7 mmol) in anhydrous Et2O (25 ml) kept 0° C. A few drops of DMF (4-5 drops) were also added under stirring to the reaction mixture and the reaction temperature was allowed to rise to r.t. (ca. 20° C.). The reaction mixture was stirred at room temperature and under argon for 5 hours. The reaction mixture was concentrated in vacuo to provide crude 4-(nitrooxy)butanoyl chloride.

reactant | Thionyl chloride | 7.7 mmol, 0.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(Nitrooxy)butanoic acid | 6.7 mmol, 1.00 g | [N+](=O)([O-])OCCCC(=O)O | C4H7NO5
solvent | Et2O | 25 ml | CCOCC | C4H10O
catalyst | DMF | A few drops | CN(C)C=O | C3H7NO
product | 4-(nitrooxy)butanoyl chloride | [N+](=O)([O-])OCCCC(=O)Cl | C4H6ClNO4
